US08039469B2
Preparation of N-(2-(dimethylamino)ethyl)-4-(3-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)ureido)-N-methylbenzamide hydrochloride
To the N-(2-(dimethylamino)ethyl)-4-(3-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)ureido)-N-methylbenzamide (55 mg, 0.127 mmol) and MeOH (1 mL) was added 4N HCl in Dioxane (1 mL) and stirred for 3 hrs. The solid was filtered and washed with ether to give the product as a white solid (70 mg, yield=88%).

reactant | N-(2-(dimethylamino)ethyl)-4-(3-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)ureido)-N-methylbenzamide | 0.127 mmol, 55 mg | CN(CCN(C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1)=O)C)C | C30H39N9O4
reactant | MeOH | 1 mL | CO | CH4O
reactant | HCl | 4N | Cl | ClH
solvent | Dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-(2-(dimethylamino)ethyl)-4-(3-(4-(4,6-dimorpholino-1,3,5-triazin-2-yl)phenyl)ureido)-N-methylbenzamide hydrochloride | 70 mg, yield=88% | Cl.CN(CCN(C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1)=O)C)C | InChI=1S/C30H39N9O4.ClH/c1-36(2)12-13-37(3)27(40)23-6-10-25(11-7-23)32-30(41)31-24-8-4-22(5-9-24)26-33-28(38-14-18-42-19-15-38)35-29(34-26)39-16-20-43-21-17-39;/h4-11H,12-21H2,1-3H3,(H2,31,32,41);1H
